* Schematics Netlist *



Q_Q10         $N_0001 $N_0002 0 QBC547C/PLP 
Q_Q11         $N_0003 $N_0004 0 QBC547C/PLP 
C_C7         $N_0005 $N_0002  {cap}  
C_C8         $N_0006 $N_0004  {cap}  
L_L2         $N_0007 $N_0004  330u  
L_L3         $N_0002 $N_0007  330u  
Q_Q9         $N_0007 $N_0007 0 QBC547C/PLP 
Q_Q12         $N_0008 $N_0009 0 QBC547C/PLP 
X_TX5         $N_0003 Vcc $N_0001 $N_0010 $N_0011 XFRM_LIN/CT-PRI PARAMS:
+  Lp1_value={Lp2} Lp2_value={Lp2} Ls_value={Ls2} Coupling=0.99 Rp_value=0.25
+  Rs_value=0.25
R_RL2         0 $N_0012  50  
C_C9         $N_0011 $N_0009  {cap}  
X_TX4    $N_0013 0 $N_0006 $N_0005 prueba_salida_TX4 
I_I4         $N_0013 0  AC 1m
+SIN 0 1m 10meg 0 0 0
R_R23         $N_0009 0  10k  
R_R17         0 $N_0004  10k  
R_R18         $N_0002 0  10k  
R_R14         $N_0007 Vcc  4.7k  
L_L5         $N_0009 $N_0014  330u  
V_V1         Vcc 0 5V
X_TX6         $N_0015 Vcc $N_0008 $N_0012 0 XFRM_LIN/CT-PRI PARAMS: Lp1_value=
+ {Lp2} Lp2_value={Lp2} Ls_value={Ls2} Coupling=0.99 Rp_value=0.25 Rs_value=0.25
L_L4         $N_0014 $N_0016  330u  
Q_Q13         $N_0015 $N_0016 0 QBC547C/PLP 
R_R22         0 $N_0016  10k  
C_C10         $N_0010 $N_0016  {cap}  
R_R24         $N_0014 Vcc  4.7k  
Q_Q14         $N_0014 $N_0014 0 QBC547C/PLP 
R_R19         0 $N_0013  2k  
R_R15         $N_0006 $N_0004  1k  
R_R16         $N_0005 $N_0002  1k  
R_R20         $N_0010 $N_0016  1k  
R_R21         $N_0011 $N_0009  1k  

.subckt prueba_salida_TX4 1 2 3 4  
K_TX4         L1_TX4 L2_TX4 1
L1_TX4         1 2 {Lp1}
L2_TX4         3 4 {Ls1}
.ends prueba_salida_TX4
