* Schematics Netlist *



I_I1         in 0 DC 0A AC 1A 
R_R1         0 out  50  
L_L1         in out  150nH  
C_C2         0 out  480p  
C_C1         0 in  410p  
