* Schematics Netlist *



V_V2         Vcc 0 5V
Q_Q1         out1 $N_0001 $N_0002 BC547C 
Q_Q4         out2 $N_0001 $N_0003 BC547C 
I_I1         $N_0002 0 DC 1mA  
I_I2         $N_0003 0 DC 1mA  
L_L4         out1 Vcc  10uH  
L_L5         out2 Vcc  10uH  
R_R7         $N_0005 $N_0004  1k  
R_R8         0 $N_0004  1k  
V_V6         $N_0005 0 5V
Q_Q2         out2 $N_0004 $N_0002 BC547C 
Q_Q3         out1 $N_0004 $N_0003 BC547C 
C_C1         0 $N_0004  100n  
C_C2         $N_0001 $N_0006  100n  
V_Port         $N_0007 0 DC 0 AC 1
+SIN 0 10m 16meg 0 0 0
R_R1         $N_0004 $N_0001  50  
R_R11         $N_0006 $N_0007  1k  
