* Schematics Netlist *



V_V1         Vcc 0 5v
R_R26         $N_0001 Vcc  4.7k  
R_R27         0 $N_0001  4.7k  
Q_Q15         Vcc $N_0002 $N_0003 QBC547C/PLP 
C_C12         $N_0001 0  100n  
Q_Q17         $N_0004 $N_0005 $N_0006 QBC547C/PLP 
Q_Q18         Vcc $N_0007 $N_0005 QBC547C/PLP 
R_R24         $N_0005 0  2k  
R_R23         0 $N_0003  2k  
Q_Q16         $N_0008 $N_0003 $N_0006 QBC547C/PLP 
R_RL2         0 $N_0009  50  
C_C11         0 $N_0006  100n  
V_V5         $N_0010 $N_0011  AC 1
+SIN 0 10m 16meg 0 0 0
R_R25         0 $N_0006  22  
L_L5         $N_0012 $N_0009  0.15uH  
C_C13         $N_0012 0  795p  
C_C14         $N_0009 0  795p  
X_TX5         $N_0008 Vcc $N_0004 $N_0012 0 XFRM_LIN/CT-PRI PARAMS:
+  Lp1_value=100u Lp2_value=100u Ls_value=5u Coupling=0.99 Rp_value=0.25
+  Rs_value=0.25
X_TX4         $N_0010 Vcc $N_0011 $N_0002 $N_0001 $N_0007 XFRM_LIN/CT-PRI/SEC
+  PARAMS: Lp1_value=100uh Lp2_value=100uh Ls1_value={Ls} Ls2_value={Ls}
+  Coupling=0.99 Rp_value=0.25 Rs_value=0.25
