* Schematics Netlist *



R_R1         $N_0002 $N_0001  1.8k  
V_V2         $N_0002 0 DC 0 
+PULSE 0 8 0.4m 1u 1u 0.4m 1m
C_C1         0 $N_0001  47n  
Q_Q1         $N_0003 $N_0001 0 Q2N2222A/ZTX 
V_V1         $N_0004 0 8V
L_L1         $N_0004 $N_0003  10mH  
